### PR TITLE
[Merged by Bors] - chore: reduce defeq abuse

### PR DESCRIPTION
**Pull request by urkud**
Cherry-picked from #35182, improved

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/Basic.lean [hunk 1]
```diff
@@ -132,10 +132,10 @@ theorem of_equiv' {P : Type v} [AddCommMonoid P] [Module R P] (_ : Module.Free R
 instance Module.free_shrink [Module.Free R M] [Small.{w} M] : Module.Free R (Shrink.{w} M) :=
   Module.Free.of_equiv (Shrink.linearEquiv R M).symm
 
-attribute [local instance] RingHomInvPair.of_ringEquiv in
-lemma of_ringEquiv {R R' M M'} [Semiring R] [AddCommMonoid M] [Module R M]
+attribute [local instance] RingHomInvPair.of_ringEquiv RingHomInvPair.of_ringEquiv_symm in
+lemma of_ringEquiv {R R' M M' : Type*} [Semiring R] [AddCommMonoid M] [Module R M]
```
Comment (urkud) [inline Mathlib/LinearAlgebra/FreeModule/Basic.lean]: A better fix would be to migrate this lemma to a pair of `RingHom`s related by `RingHomInvPair`, but we can do it after merging this one.

File: Mathlib/RingTheory/Kaehler/Basic.lean [hunk 2]
```diff
@@ -218,13 +221,14 @@ theorem KaehlerDifferential.span_range_derivation :
...
-  suffices ∃ hx, (KaehlerDifferential.ideal R S).toCotangent ⟨x, hx⟩ ∈
-      Submodule.span S (Set.range <| KaehlerDifferential.D R S) by
-    exact this.choose_spec
-  refine Submodule.span_induction ?_ ?_ ?_ ?_ this
+  obtain ⟨⟨x, hx⟩, rfl⟩ := fromIdeal_surjective R S x
+  rw [← Submodule.restrictScalars_mem S, ← KaehlerDifferential.submodule_span_range_eq_ideal] at hx
+  suffices ∃ hx,
+      fromIdeal R S ⟨x, hx⟩ ∈ Submodule.span S (Set.range <| KaehlerDifferential.D R S) from
+    this.snd
+  -- TODO: this proof looks like we're reinventinv `Submodule.span_le`.
```
Comment (kim-em) [inline Mathlib/RingTheory/Kaehler/Basic.lean]:
```suggestion
  -- TODO: this proof looks like we're reinventing `Submodule.span_le`.
```

**Comment by urkud** [comment]
@kim-em I've moved the `of_ringEquiv` changes to #35351.

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 3]
```diff
@@ -875,7 +875,7 @@ variable [CommRing R] (I : Ideal R) (f : R[X])
 See `adjoin_root.quot_map_of_equiv` for the isomorphism with `(R/I)[X] / (f mod I)`. -/
 def quotMapOfEquivQuotMapCMapSpanMk :
     AdjoinRoot f ⧸ I.map (of f) ≃+*
-      AdjoinRoot f ⧸ (I.map (C : R →+* R[X])).map (Ideal.Quotient.mk (span {f})) :=
+      AdjoinRoot f ⧸ (I.map (C : R →+* R[X])).map (AdjoinRoot.mk f) :=
```
Comment (kbuzzard) [inline Mathlib/RingTheory/AdjoinRoot.lean:883]: The definition is now not named correctly

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 4]
```diff
@@ -894,7 +894,7 @@ theorem quotMapOfEquivQuotMapCMapSpanMk_symm_mk (x : AdjoinRoot f) :
 /-- The natural isomorphism `R[α]/((I[x] ⊔ (f)) / (f)) ≅ (R[x]/I[x])/((f) ⊔ I[x] / I[x])`
   for `α` a root of `f : R[X]` and `I : Ideal R` -/
 def quotMapCMapSpanMkEquivQuotMapCQuotMapSpanMk :
-    AdjoinRoot f ⧸ (I.map (C : R →+* R[X])).map (Ideal.Quotient.mk (span ({f} : Set R[X]))) ≃+*
+    AdjoinRoot f ⧸ (I.map (C : R →+* R[X])).map (AdjoinRoot.mk f) ≃+*
```
Comment (kbuzzard) [inline Mathlib/RingTheory/AdjoinRoot.lean:911]: Also here (no `Span` in name)

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/RingTheory/AdjoinRoot.lean:883]: @kbuzzard Could you please suggest new names?

Comment (kbuzzard) [reply Mathlib/RingTheory/AdjoinRoot.lean:883]: `quotMapOfEquivQuotMapCMapMk`? I am just saying that there's no `span` any more.

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/AdjoinRoot.lean:911]: (just delete `Span`)

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/RingTheory/AdjoinRoot.lean:883]: Thanks! I've never used this part of the library, so I thought it's better if someone else chooses the new names.

**Comment by kim-em** [comment]
bors merge
